US03952003
5,6-Dichloro-1-methyl-1H-indazole-4,7-dione ##SPC4##
2,3-Dichlorobenzoquinone (22 grams) was added portionwise to a stirred solution of diazomethane (14 grams) in ether (500 milliliters) maintained at a temperature below 15° C. A pale yellow solid separated out from the solution, and this was filtered off and dried to yield the desired product having a melting point of 176°-177° C.

reactant | 2,3-Dichlorobenzoquinone | 22 grams | ClC=1C(C=CC(C1Cl)=O)=O | C6H2Cl2O2
reactant | diazomethane | 14 grams | [N+](=[N-])=C | CH2N2
reactant | ether | 500 milliliters | CCOCC | C4H10O
product | 5,6-Dichloro-1-methyl-1H-indazole-4,7-dione | ClC=1C(C=2C=NN(C2C(C1Cl)=O)C)=O | C8H4Cl2N2O2
